US04863920
7 g (19.9 mmol) of 8-fluoro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was heated to boiling under reflux for 3 hours with 2.5 ml (29 mmol) of propargyl ether, 100 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 30 mg of copper(I) iodide in 70 ml of diethylamine. The reaction mixture was evaporated and the residue was chromatographed on silica gel while eluting with ethyl acetate. After recrystallization from ethyl acetate there was obtained 8-fluoro-4,5-dihydro-3-(3-methoxy-1-propynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 146°-147°.

reactant | 8-fluoro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 19.9 mmol, 7 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3I)C)=O)C1 | C12H9FIN3O
reactant | propargyl ether | 29 mmol, 2.5 ml | C(C#C)OCC#C | C6H6O
solvent | diethylamine | 70 ml | C(C)NCC | C4H11N
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 30 mg | [Cu]I
product | 8-fluoro-4,5-dihydro-3-(3-methoxy-1-propynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | FC=1C=CC2=C(C(N(CC=3N2C=NC3C#CCOC)C)=O)C1 | C16H14FN3O2
